US05326905
2. 4-phenylbenzylphosphonic acid
A vigorously stirred suspension of 3.5 g (12 mmol) of diethyl 4-phenylbenzylphosphonate in 35 ml of concentrated hydrochloric acid was refluxed for 45 hours and cooled to room temperature. The solids were filtered, washed with water and then recrystallized from EtOH to give 0.5 g of product; m.p. 246°-248° C.

reactant | diethyl 4-phenylbenzylphosphonate | 12 mmol, 3.5 g | C1(=CC=CC=C1)C1=CC=C(CP(OCC)(OCC)=O)C=C1 | C17H21O3P
solvent | hydrochloric acid | 35 ml | Cl | ClH
product | 4-phenylbenzylphosphonic acid | 0.5 g | C1(=CC=CC=C1)C1=CC=C(CP(O)(O)=O)C=C1 | C13H13O3P
